* Subcircuit M5234_My
.subckt M5234_My net-_d1-pad2_ net-_d4-pad1_ net-_q1-pad1_ net-_q8-pad1_ net-_i1-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\m5234_my\m5234_my.cir
.include NPN.lib
.include PNP.lib
.include D.lib
q8 net-_q8-pad1_ net-_i4-pad2_ net-_q1-pad1_ Q2N2222
q7 net-_i4-pad2_ net-_q4-pad1_ net-_q1-pad1_ Q2N2222
q4 net-_q4-pad1_ net-_q2-pad1_ net-_q1-pad1_ Q2N2222
q3 net-_q2-pad1_ net-_q2-pad1_ net-_q1-pad1_ Q2N2222
q1 net-_q1-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
d4 net-_d4-pad1_ net-_d3-pad2_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d2-pad1_ net-_d1-pad1_ 1N4148
i4 net-_i1-pad1_ net-_i4-pad2_  dc 80u
q2 net-_q2-pad1_ net-_d1-pad1_ net-_i2-pad2_ Q2N2907A
q5 net-_q4-pad1_ net-_d3-pad2_ net-_i2-pad2_ Q2N2907A
q6 net-_q1-pad1_ net-_d4-pad1_ net-_d3-pad2_ Q2N2907A
i1 net-_i1-pad1_ net-_d2-pad1_  dc 80u
i2 net-_i1-pad1_ net-_i2-pad2_  dc 80u
i3 net-_i1-pad1_ net-_d3-pad1_  dc 80u
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
r1  net-_i1-pad1_ net-_q8-pad1_ 10k
* Control Statements

.ends M5234_My